US05827865
3-[4-[2-[N-(2-Benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-ethoxythiopropanamide
3-[4-[2-[N-(2-Benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-ethoxypropanamide (428 mg, 1.1 mmol) was suspended in toluene and Lawesson's reagent (1.1 eq) added. After 3 h at refluxed the suspension was cooled and poured into water. After extraction with chloroform (×3) the extracts were washed with aqueous ammonia, dried and concentrated. Chromatography (methanol/dichloromethane) gave the product as a white solid m.p.=46°-48° C.

reactant | 3-[4-[2-[N-(2-Benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-ethoxypropanamide | 1.1 mmol, 428 mg | O1C(=NC2=C1C=CC=C2)N(C)CCOC2=CC=C(C=C2)CC(C(=O)N)OCC | C21H25N3O4
reactant | Lawesson's reagent | 1.1 eq | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-[4-[2-[N-(2-Benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-ethoxythiopropanamide | O1C(=NC2=C1C=CC=C2)N(C)CCOC2=CC=C(C=C2)CC(C(=S)N)OCC | C21H25N3O3S
